.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 32n 64n)
V_B B gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
V_C C gnd PULSE(0 {VDD_val} 2n 100p 100p 8n 16n)
V_D D gnd PULSE(0 {VDD_val} 2n 100p 100p 4n 8n)
V_E E gnd PULSE(0 {VDD_val} 2n 100p 100p 2n 4n)
VDD vdd gnd 1.8
*  D G S B
* SPICE3 file created from NAND5.ext - technology: scmos

.option scale=0.09u

M1000 a_30_n9# B a_22_n9# Gnd CMOSN w=100 l=2
+  ad=600 pd=212 as=600 ps=212
M1001 Y C vdd w_9_100# CMOSP w=50 l=2
+  ad=850 pd=334 as=850 ps=334
M1002 Y E a_46_n9# Gnd CMOSN w=100 l=2
+  ad=500 pd=210 as=600 ps=212
M1003 vdd D Y w_9_100# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_38_n9# C a_30_n9# Gnd CMOSN w=100 l=2
+  ad=600 pd=212 as=0 ps=0
M1005 Y E vdd w_9_100# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 a_22_n9# A gnd Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=500 ps=210
M1007 a_46_n9# D a_38_n9# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 vdd B Y w_9_100# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 Y A vdd w_9_100# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
C0 A B 0.24fF
C1 a_46_n9# Y 1.09fF
C2 gnd Y 0.03fF
C3 E Y 0.08fF
C4 E vdd 0.08fF
C5 C D 0.24fF
C6 w_9_100# Y 0.12fF
C7 C B 0.24fF
C8 w_9_100# vdd 0.17fF
C9 E D 0.24fF
C10 Y a_30_n9# 0.05fF
C11 w_9_100# D 0.08fF
C12 vdd Y 2.68fF
C13 a_46_n9# a_38_n9# 1.03fF
C14 w_9_100# A 0.08fF
C15 w_9_100# B 0.08fF
C16 gnd a_22_n9# 1.03fF
C17 Y D 0.08fF
C18 vdd D 0.08fF
C19 w_9_100# C 0.08fF
C20 Y B 0.08fF
C21 A vdd 0.08fF
C22 vdd B 0.08fF
C23 a_30_n9# a_38_n9# 1.03fF
C24 a_22_n9# a_30_n9# 1.03fF
C25 E w_9_100# 0.08fF
C26 Y a_38_n9# 0.05fF
C27 a_22_n9# Y 0.05fF
C28 C Y 0.08fF
C29 vdd C 0.08fF
C30 a_46_n9# Gnd 0.01fF
C31 a_38_n9# Gnd 0.01fF
C32 a_30_n9# Gnd 0.01fF
C33 a_22_n9# Gnd 0.01fF
C34 gnd Gnd 0.20fF
C35 Y Gnd 0.18fF
C36 vdd Gnd 0.15fF
C37 E Gnd 0.17fF
C38 D Gnd 0.17fF
C39 C Gnd 0.17fF
C40 B Gnd 0.17fF
C41 A Gnd 0.17fF
C42 w_9_100# Gnd 3.80fF


.tran 10p 50n
.control
run
set curplottitle="2024102070 5 input NAND Gate using CMOS Post Layout using Magic"
 
plot V(A)+10 V(B)+8 V(C)+6 V(D)+4 V(E)+2 V(Y)
let half_vdd = 0.9

meas tran t_A_rise WHEN V(A)=half_vdd RISE=1
meas tran t_Y_fall_A WHEN V(Y)=half_vdd FALL=1 TD=2n
let tp_A = t_Y_fall_A - t_A_rise
meas tran t_B_rise WHEN V(B)=half_vdd RISE=1
meas tran t_Y_fall_B WHEN V(Y)=half_vdd FALL=1 TD=4n
let tp_B = t_Y_fall_B - t_B_rise
meas tran t_C_rise WHEN V(C)=half_vdd RISE=1
meas tran t_Y_fall_C WHEN V(Y)=half_vdd FALL=1 TD=6n
let tp_C = t_Y_fall_C - t_C_rise
meas tran t_D_rise WHEN V(D)=half_vdd RISE=1
meas tran t_Y_fall_D WHEN V(Y)=half_vdd FALL=1 TD=8n
let tp_D = t_Y_fall_D - t_D_rise
meas tran t_E_fall WHEN V(E)=half_vdd FALL=1
meas tran t_Y_rise_E WHEN V(Y)=half_vdd RISE=1 TD=10n
let tp_E = t_Y_rise_E - t_E_fall
meas tran tphl trig v(a) val=0.9 rise=1 targ v(y) val=0.9 fall=1
meas tran tplh trig v(e) val=0.9 fall=1 targ v(y) val=0.9 rise=1
let tp_avg = (tphl + tplh) / 2
let tp_max = max(tp_A, tp_B, tp_C, tp_D, tp_E)
let tp_min = min(tp_A, tp_B, tp_C, tp_D, tp_E)
print tphl tplh tp_avg

.endc