.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
V_B B gnd PULSE(0 {VDD_val} 2n 100p 100p 8n 16n)
VDD vdd gnd 1.8
*  D G S B

* SPICE3 file created from XOR.ext - technology: scmos

.option scale=0.09u

M1000 B_bar a_1_196# vdd vdd CMOSP w=40 l=2
+  ad=400 pd=180 as=960 ps=368
M1001 a_60_81# a_1_196# A_bar Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1002 vdd B_bar Y vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1003 a_28_1# B_bar Y Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1004 a_28_152# B a_1_196# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1005 gnd A_bar a_28_1# Gnd CMOSN w=40 l=2
+  ad=800 pd=360 as=0 ps=0
M1006 gnd A a_60_81# Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 Y A_bar vdd vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_n4_81# B B_bar Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=200 ps=90
M1009 gnd a_1_196# a_n4_81# Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 gnd A a_28_152# Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 vdd B a_1_196# vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1012 vdd a_1_196# A_bar vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=400 ps=180
M1013 vdd B B_bar vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1014 a_1_196# A vdd vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 A_bar A vdd vdd CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 vdd a_1_196# 0.13fF
C1 a_1_196# B 0.35fF
C2 vdd B 0.08fF
C3 a_1_196# B_bar 0.15fF
C4 vdd B_bar 0.14fF
C5 vdd vdd 0.50fF
C6 a_n4_81# B_bar 0.45fF
C7 A_bar Y 0.08fF
C8 vdd B 0.08fF
C9 A a_1_196# 0.35fF
C10 Y a_28_1# 0.41fF
C11 a_28_152# gnd 0.41fF
C12 A_bar a_1_196# 0.08fF
C13 B B_bar 0.15fF
C14 gnd Y 0.27fF
C15 Y vdd 0.14fF
C16 a_28_152# vdd 0.09fF
C17 Y vdd 0.90fF
C18 vdd A 0.08fF
C19 A B 0.44fF
C20 gnd vdd 0.03fF
C21 a_1_196# vdd 1.14fF
C22 gnd a_n4_81# 0.41fF
C23 vdd vdd 0.10fF
C24 A_bar B_bar 0.31fF
C25 a_1_196# vdd 0.08fF
C26 vdd vdd 0.06fF
C27 A_bar A 0.08fF
C28 gnd B_bar 0.12fF
C29 B vdd 0.01fF
C30 vdd B_bar 0.08fF
C31 vdd B_bar 0.90fF
C32 a_28_152# a_1_196# 0.41fF
C33 A vdd 0.33fF
C34 gnd A_bar 0.04fF
C35 A_bar vdd 0.08fF
C36 A_bar a_60_81# 0.41fF
C37 A_bar vdd 1.30fF
C38 gnd a_28_1# 0.41fF
C39 A vdd 0.08fF
C40 a_1_196# vdd 0.08fF
C41 gnd vdd 0.31fF
C42 A_bar vdd 0.14fF
C43 gnd a_60_81# 0.41fF
C44 gnd vdd 0.10fF
C45 vdd vdd 0.05fF
C46 Y B_bar 0.08fF
C47 a_28_1# Gnd 0.01fF
C48 a_60_81# Gnd 0.01fF
C49 Y Gnd 3.85fF
C50 a_n4_81# Gnd 0.01fF
C51 A_bar Gnd 0.30fF
C52 gnd Gnd 1.91fF
C53 a_28_152# Gnd 0.01fF
C54 B_bar Gnd 0.45fF
C55 vdd Gnd 2.08fF
C56 a_1_196# Gnd 0.42fF
C57 A Gnd 0.85fF
C58 B Gnd 0.85fF
C59 vdd Gnd 1.67fF
C60 vdd Gnd 0.22fF
C61 vdd Gnd 1.67fF
C62 vdd Gnd 1.67fF


.tran 10p 50n
.control
set hcopypscolor=1
set color0=white
set color1=black

run

set curplottitle="2024102070  XOR gate using CMOS Post Layout using Magic"

plot v(A)+4 v(B)+2 v(Y)

let half_vdd = 0.9

meas tran t_A_rise  WHEN v(A)=half_vdd  RISE=1
meas tran t_Y_fall_A WHEN v(Y)=half_vdd FALL=1 TD=2n
let tp_A = t_Y_fall_A - t_A_rise

meas tran t_B_rise  WHEN v(B)=half_vdd  RISE=1
meas tran t_Y_fall_B WHEN v(Y)=half_vdd FALL=1 TD=5n
let tp_B = t_Y_fall_B - t_B_rise

meas tran tphl  TRIG v(A) VAL=0.9 RISE=1  TARG v(Y) VAL=0.9 FALL=1
meas tran tplh  TRIG v(B) VAL=0.9 FALL=1 TARG v(Y) VAL=0.9 RISE=1

let tp_avg = (tphl + tplh)/2
let tp_max = max(tp_A, tp_B)
let tp_min = min(tp_A, tp_B)

print tphl tplh tp_avg

.endc