.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
VDD vdd gnd 1.8
*  D G S B

Mn_inv      Y       A       gnd    gnd  CMOSN   W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
Mp_inv      Y       A       vdd    vdd  CMOSP   W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

.tran 10p 50n
.control
set hcopYpscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))

run
set curplottitle="2024102070  Inverter Gate using CMOS"
 
plot V(A)+4 V(Y)+2
let half_vdd = 0.9

meas tran tphl trig v(a) val=0.9 rise=1 targ v(y) val=0.9 fall=1
meas tran tplh trig v(a) val=0.9 fall=1 targ v(y) val=0.9 rise=1

let tp_avg = (tphl + tplh) / 2

print tphl tplh tp_avg
.endc
