.include TSMC_180nm.txt
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P = 2.5*width_N
.global gnd vdd
.PARAM VDD_val = 1.8

V_A A gnd PULSE(0 {VDD_val} 2n 100p 100p 16n 32n)
VDD vdd gnd 1.8
*  D G S B

* SPICE3 file created from inverter.ext - technology: scmos

.option scale=0.09u

M1000 Y A gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1001 Y A vdd vdd CMOSP w=50 l=2
+  ad=250 pd=110 as=250 ps=110
C0 gnd A 0.05fF
C1 Y vdd 0.07fF
C2 vdd A 0.02fF
C3 Y gnd 0.23fF
C4 vdd vdd 0.10fF
C5 vdd A 0.06fF
C6 vdd Y 0.55fF
C7 Y A 0.05fF
C8 gnd Gnd 0.12fF
C9 Y Gnd 0.11fF
C10 vdd Gnd 0.00fF
C11 A Gnd 0.20fF
C12 vdd Gnd 1.49fF

.tran 10p 50n
.control
set hcopYpscolor = 1 *White background for saving plots
set color0=white ** color0 is used to set the background of the plot (manual sec:17.7))
set color1=black ** color1 is used to set the grid color of the plot (manual sec:17.7))

run
set curplottitle="2024102070  Inverter Gate using CMOS Post layout using Magic"
 
plot V(A)+4 V(Y)+2
let half_vdd = 0.9

meas tran tphl trig v(a) val=0.9 rise=1 targ v(y) val=0.9 fall=1
meas tran tplh trig v(a) val=0.9 fall=1 targ v(y) val=0.9 rise=1

let tp_avg = (tphl + tplh) / 2

print tphl tplh tp_avg
.endc
